US04898853
8(S),9(S),10(R)-Trihydroxy-11,13,15-hexadecatriynoic acid, methyl ester
A quantity of a 1 mg/ml solution in ethyl acetate of 8(S),9(S),10(R)-trihydroxy-11,13,15-hexadecatriynoic acid (10 ml, 34.2 μmols) was stirred at ambient temperature in a flask equipped with a vacuum adapter. A solution of CH2N2 in diethyl ether (1 ml) was added and the progress of the reaction followed by thin layer chromatography. After 10 minutes, vacuum was applied and the excess CH2N2 was removed. The mixture was partially concentrated to 0.2 ml and applied to a short silica gel column. The desired material was eluted with diethyl ether. After partial concentration, the solvent was replaced by repeated removal of CDCl3 under reduced pressure and the reaction quantized by nmr spectroscopy (using an internal standard) to establish recovery of the title compound (6.8 mg, 65%). Structure assignment was supported by the nmr spectrum.

reactant | 8(S),9(S),10(R)-trihydroxy-11,13,15-hexadecatriynoic acid | 34.2 μmols, 10 ml | O[C@@H](CCCCCCC(=O)O)[C@@H]([C@@H](C#CC#CC#C)O)O | C16H20O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 8(S),9(S),10(R)-Trihydroxy-11,13,15-hexadecatriynoic acid, methyl ester | O[C@@H](CCCCCCC(=O)OC)[C@@H]([C@@H](C#CC#CC#C)O)O | C17H22O5
